US05817654
5-Methyl-2-(4-(4-methylphenyl)-3-thienyl)-[1,3,4]oxadiazole (3.4 g, 13.3 mmol) was dissolved into carbontetrachloride (60 ml). AIBN (0.21 g), sodium acetate (0.52 g), NBS (2.6 g, 14.6 mmol) and glacial acetic acid (0.52 ml) were added. The reaction mixture was heated at reflux temperature for 8h and then allowed to cool to ambient temperature. The reaction mixture was filtered through silica gel and the filtrate was evaporated in vacuo. The oily residue was dried in vacuo over sodium hydroxide to give 2.6 g of crude 5-methyl-2-(4-(4-bromomethylphenyl)-3-thienyl)- [1,3,4]oxadiazole.

reactant | 5-Methyl-2-(4-(4-methylphenyl)-3-thienyl)-[1,3,4]oxadiazole | 13.3 mmol, 3.4 g | CC1=NN=C(O1)C1=CSC=C1C1=CC=C(C=C1)C | C14H12N2OS
reactant | AIBN | 0.21 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | sodium acetate | 0.52 g | C(C)(=O)[O-].[Na+]
reactant | NBS | 14.6 mmol, 2.6 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetic acid | 0.52 ml | C(C)(=O)O | C2H4O2
solvent | carbontetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-methyl-2-(4-(4-bromomethylphenyl)-3-thienyl)- [1,3,4]oxadiazole | 2.6 g | CC1=NN=C(O1)C1=CSC=C1C1=CC=C(C=C1)CBr | C14H11BrN2OS
